US06268387B1
3-(2,5-Dichlorothiophene-3-sulfonylamino)-4-methoxy-N-phenyl-benzamide
Prepared according to the procedure described for Example 127 using 2,5-dichlorothiophene-3-sulfonyl chloride (0.75 g, 3.0 mmol) and 3-amino-4-methoxy-N-phenyl-benzamide (0.73 g, 3.0 mmol) to afford the product (0.9 g); m.p. 189-190° C.

reactant | 2,5-dichlorothiophene-3-sulfonyl chloride | 3.0 mmol, 0.75 g | ClC=1SC(=CC1S(=O)(=O)Cl)Cl | C4HCl3O2S2
reactant | 3-amino-4-methoxy-N-phenyl-benzamide | 3.0 mmol, 0.73 g | NC=1C=C(C(=O)NC2=CC=CC=C2)C=CC1OC | C14H14N2O2
product | 3-(2,5-Dichlorothiophene-3-sulfonylamino)-4-methoxy-N-phenyl-benzamide | 0.9 g | ClC=1SC(=CC1S(=O)(=O)NC=1C=C(C(=O)NC2=CC=CC=C2)C=CC1OC)Cl | C18H14Cl2N2O4S2
